US04886835
The procedure is as in Example 39, starting with diethyl 2-hydroxy-5-(2-naphthylthio)-2,4-hexadienedioate, (2 g), 1N aqueous sodium hydroxide solution (80 cc) and ethanol (100 cc). 2-Hydroxy-5-ethoxycarbonyl-5-(2-naphthylthio)-2,4-pentadienoic acid (1.5 g), m.p. 182° C., is obtained by precipitation in ethanol.

reactant | diethyl 2-hydroxy-5-(2-naphthylthio)-2,4-hexadienedioate | 2 g | OC(C(=O)OCC)=CC=C(C(=O)OCC)SC1=CC2=CC=CC=C2C=C1 | C20H20O5S
reactant | sodium hydroxide | 1N, 80 cc | [OH-].[Na+]
solvent | ethanol | C(C)O | C2H6O
solvent | ethanol | 100 cc | C(C)O | C2H6O
product | 2-Hydroxy-5-ethoxycarbonyl-5-(2-naphthylthio)-2,4-pentadienoic acid | 1.5 g | OC(C(=O)O)=CC=C(SC1=CC2=CC=CC=C2C=C1)C(=O)OCC | C18H16O5S
